US06303673B1
(c) 1,3-Dihydro-1-isobutyl-3,3-dimethyl-6′-(4-pyrrolidinophenyl)spiro[2H-indole-2,2′[2H]naphth[1,2-b][1,4]oxazine]
A solution of 4-(4-pyrrolidinophenyl)-1,2-naphthoquinone-2-oxime (0.005 mol) and 1-isobutyl-3,3-dimethyl-2-methyleneindoline (0.005 mol) in anhydrous ethanol (70 cm3) was refluxed until examination of the reaction mixture by thin layer chromatography indicated that none of the 4-(4-pyrrolidinophenyl)-1,2-naphthoquinone-2-oxime remained. The mixture was cooled, reduced in volume and the precipitated product collected by vacuum filtration washed with a little cold ethanol and dried. Yield=19%, m.p.=242-245° C., λmax=614 nm in PhMe upon irradiation.

reactant | 4-(4-pyrrolidinophenyl)-1,2-naphthoquinone-2-oxime | 0.005 mol | N1(CCCC1)C1=CC=C(C=C1)C1=CC(C(C2=CC=CC=C12)=O)=NO | C20H18N2O2
reactant | 1-isobutyl-3,3-dimethyl-2-methyleneindoline | 0.005 mol | C(C(C)C)N1C(C(C2=CC=CC=C12)(C)C)=C | C15H21N
solvent | ethanol | 70 cm3 | C(C)O | C2H6O
product | 1,3-Dihydro-1-isobutyl-3,3-dimethyl-6′-(4-pyrrolidinophenyl)spiro[2H-indole-2,2′[2H]naphth[1,2-b][1,4]oxazine] | Yield=19% | C(C(C)C)N1C2=CC=CC=C2C(C12C=NC1=C(O2)C2=CC=CC=C2C(=C1)C1=CC=C(C=C1)N1CCCC1)(C)C | C35H37N3O
